US05302585
(S)-2-Amino-6-chloro-9-[2-[(diisopropylphosphono)methoxy]propyl]purine
2-Amino-6-chloropurine (1.40 g, 8.3 mmol) was added portionwise to a slurry of sodium hydride (0.25 g, 80% dispersion in oil, 8.3 mmol) in dimethylformamide (50 mL) at room temperature. Vigorous bubbling was noted during the addition. After 30 minutes, the clear, yellow solution was treated with a solution of (S)-2-O-[(diisopropylphosphono)methyl]-1-O-methanesulfonyl-1,2-propanediol (2.50 g, 7.5 mmol) in dimethylformamide (5 mL), and the reaction mixture was heated to 100° C. After 5 hours, the mixture was allowed to cool to room temperature and concentrated in vacuo. The residue was purified by column chromatography on silica gel (20:1, 2% to 4% to 8% methanol/methylene chloride) to provide 1.89 g (62%) of the title compound as a viscous pale yellow oil.

reactant | 2-Amino-6-chloropurine | 8.3 mmol, 1.40 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | sodium hydride | 8.3 mmol, 0.25 g | [H-].[Na+]
reactant | (S)-2-O-[(diisopropylphosphono)methyl]-1-O-methanesulfonyl-1,2-propanediol | 7.5 mmol, 2.50 g | C(C)(C)OP(=O)(OC(C)C)CO[C@H](COS(=O)(=O)C)C | C11H25O7PS
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (S)-2-Amino-6-chloro-9-[2-[(diisopropylphosphono)methoxy]propyl]purine | 1.89 g, 62% | NC1=NC(=C2N=CN(C2=N1)C[C@H](C)OCP(=O)(OC(C)C)OC(C)C)Cl | C15H25ClN5O4P
